US04346038
Preparation of 4-dibromomethyl-6,6-dimethyl-3-oxabicyclo[3.1.0]hexan-2-one
Cis 2-tribromoacetyl-3,3-dimethylcyclopropane carboxylic acid (0.2 mmol) prepared by a method analogous to that described in Example 1, was stirred for 10 minutes with a solution of sodium borohydride (0.8 mmol) in 5 ml water at room temperature for 16 hours and the crystalline reaction product was then filtered off and dried under reduced pressure at 40° C. The resulting product weighed 13 mg and contained 50% of the desired product, largely in the form of the endo isomer.

reactant | Cis 2-tribromoacetyl-3,3-dimethylcyclopropane carboxylic acid | 0.2 mmol | BrC(C(=O)[C@@H]1[C@@H](C1(C)C)C(=O)O)(Br)Br | C8H9Br3O3
reactant | sodium borohydride | 0.8 mmol | [BH4-].[Na+]
solvent | water | 5 ml | O | H2O
product | 4-dibromomethyl-6,6-dimethyl-3-oxabicyclo[3.1.0]hexan-2-one | BrC(C1OC(C2C(C12)(C)C)=O)Br | C8H10Br2O2
